US06528657B2
(1) Synthesis of N-(4-methoxyphenyl)carbazole
8.10 g (48.5 mmol) of carbazole, 12.50 g (53.4 mmol) of 4-iodoanisole, 0.38 g (6.08 mmol) of copper powder, 4.28 g (16.2 mmol) of 18-crown-6-ether and 7.24 g (53.4 mmol) of potassium carbonate were placed in a 500 ml four-necked flask with a mechanical stirrer and bulb-shaped cooler. To this was added 100 ml of o-dichlorobenzene as solvent. The resultant product was heated to 180° C. under a nitrogen flow in a silicone oil bath, and subjected to the reaction for 24 hours. After the reaction was completed, the reaction product was subjected to suction filtration with a suction funnel, before it was cooled down. The resultant filtrate was concentrated in an evaporator. To the resultant oily product was added 200 ml of ethanol. The precipitated solid was subjected to the filtration at a reduced pressure with a suction funnel to obtain a gray solid, which was recrystallized in the presence of benzene to obtain 6.0 g of a white crystal.

reactant | carbazole | 48.5 mmol, 8.10 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | 4-iodoanisole | 53.4 mmol, 12.50 g | IC1=CC=C(C=C1)OC | C7H7IO
reactant | 18-crown-6-ether | 16.2 mmol, 4.28 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium carbonate | 53.4 mmol, 7.24 g | C([O-])([O-])=O.[K+].[K+]
solvent | o-dichlorobenzene | 100 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | copper | 6.08 mmol, 0.38 g | [Cu] | Cu
product | N-(4-methoxyphenyl)carbazole | 6.0 g | COC1=CC=C(C=C1)N1C2=CC=CC=C2C=2C=CC=CC12 | C19H15NO
